US08003785B2
To a mixture of 0.150 g (0.54 mmole) of (rac)-(3R,4R)-4-azido-3-hydroxy-piperidine-1-carboxylic acid benzyl ester in 3.75 mL of tetrahydrofuran-dimethylformamide (4:1) at 0 degrees, was added 0.026 g of sodium hydride (60% mineral oil dispersion). After stirring for 10 minutes, 0.060 mL of iodomethane was added. The mixture was warmed to room temperature, stirred for 2 hours, then cooled in an ice-bath, and 1 mL of saturated aqueous ammonium chloride solution added. The resulting mixture was partitioned between 50 mL of ethyl acetate and 50 mL of saturated aqueous ammonium chloride solution. The organic layer was successively with water, then brine and dried over anhydrous magnesium sulfate. The mixture was filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatoraphy, eluting with hexanes-ethyl acetate (85:15) to give 0.085 g of (rac)-(3R,4R)-4-azido-3-methoxy-piperidine-1-carboxylic acid benzyl ester as a colorless oil.

reactant | (rac)-(3R,4R)-4-azido-3-hydroxy-piperidine-1-carboxylic acid benzyl ester | 0.54 mmole, 0.150 g | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@@H](CC1)N=[N+]=[N-])O | C13H16N4O3
reactant | sodium hydride | 0.026 g | [H-].[Na+]
reactant | iodomethane | 0.060 mL | IC | CH3I
reactant | ammonium chloride | 1 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran dimethylformamide | 3.75 mL | O1CCCC1.CN(C=O)C
product | (rac)-(3R,4R)-4-azido-3-methoxy-piperidine-1-carboxylic acid benzyl ester | 0.085 g | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@@H](CC1)N=[N+]=[N-])OC | C14H18N4O3
